US04261993
2-(2-Hydroxyethyl)indoline (43 g) and 5-isothiocyanato-3-methylisoquinoline (52 g) are dissolved in ethanol (800 cc). The solution, which is kept for 24 hours at a temperature of about 20° C., deposits a solid which is isolated by filtration, washed with ethanol (3×50 cc) and dried. (RS)-2-(2-Hydroxyethyl)-N-(3-methylisoquinol-5-yl)indoline-1-carbothioamide (51 g), a white solid, is obtained.

reactant | 2-(2-Hydroxyethyl)indoline | 43 g | OCCC1NC2=CC=CC=C2C1 | C10H13NO
reactant | 5-isothiocyanato-3-methylisoquinoline | 52 g | N(=C=S)C1=C2C=C(N=CC2=CC=C1)C | C11H8N2S
solvent | ethanol | 800 cc | C(C)O | C2H6O
product | (RS)-2-(2-Hydroxyethyl)-N-(3-methylisoquinol-5-yl)indoline-1-carbothioamide | 51 g | OCCC1N(C2=CC=CC=C2C1)C(NC1=C2C=C(N=CC2=CC=C1)C)=S | C21H21N3OS
